US08030311B2
A mixture of (4-imidazo[4,5-b]pyridine-3-yl-phenyl)-oxo-acetic acid ethyl ester (123 mg, 0.417 mmol) and 1N LiOH (0.5 mL, 0.5 mmol) in THF (4 mL) is stirred at rt for 5 min. 1M HCl (500 μL) is then added and the resulting precipitate filtered off. (4-Imidazo[4,5-b]pyridine-3-yl-phenyl)-oxo-acetic acid is obtained as a grey solid. Title compound: ES-MS=268.05 [M+H]+; tR=0.8 min (System 2).

reactant | (4-imidazo[4,5-b]pyridine-3-yl-phenyl)-oxo-acetic acid ethyl ester | 0.417 mmol, 123 mg | C(C)OC(C(=O)C1=CC=C(C=C1)N1C=NC=2C1=NC=CC2)=O | C16H13N3O3
reactant | LiOH | 0.5 mmol, 1N, 0.5 mL | [Li+].[OH-]
reactant | HCl | 1M, 500 μL | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (4-Imidazo[4,5-b]pyridine-3-yl-phenyl)-oxo-acetic acid | N1=CN(C2=NC=CC=C21)C2=CC=C(C=C2)C(C(=O)O)=O | C14H9N3O3
